US05304614
1. 3,4,7-Trimethylindene
A mixture of 12 g (150 mmol) of methylcyclopentadiene and 17.1 g (150 mmol) of 2,5-hexanedione was added dropwise to a solution of 8.6 g (975 mmol) of sodium in 200 ml of methanol at 0° C. in the course of 1 hour. After stirring at room temperature for 18 hours, the dark red mixture was poured onto ice-water and extracted with ether. After the extract had been dried over sodium sulfate, the solvent was stripped off and the oil which remained was chromatographed on 600 g of silica gel 60. Using hexane as the mobile phase, first 3.2 g (13%) of 3,4,7-trimethylindene and then 1.5 g (6%) of 2,4,7-trimethylindene were eluted in close succession. Subsequent recrystallization from hexane gave the pure products.

reactant | methylcyclopentadiene | 150 mmol, 12 g | CC1=CC=CC1 | C6H8
reactant | 2,5-hexanedione | 150 mmol, 17.1 g | CC(CCC(C)=O)=O | C6H10O2
reactant | sodium | 975 mmol, 8.6 g | [Na] | Na
solvent | methanol | 200 ml | CO | CH4O
product | 3,4,7-Trimethylindene | CC1=CCC2=C(C=CC(=C12)C)C | C12H14
